US08349826B2
O.i. (R)-4-(tert-butyl-dimethyl-silanyloxy)-1-(4-ethoxy-phenylamino)-butan-2-ol
Starting from 4-ethoxyaniline (3.2 mL; commercial) and tert-butyl-dimethyl-((R)-2-oxiranyl-ethoxy)-silane (5.0 g; prepared according to WO 2007/144423) and following procedure A, the title compound was obtained after CC (EA/Hept 1:1) as a brown oil (5.22 g; 62% yield).

reactant | 4-ethoxyaniline | 3.2 mL | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | tert-butyl-dimethyl-((R)-2-oxiranyl-ethoxy)-silane | 5.0 g | C(C)(C)(C)[Si](OCC[C@H]1OC1)(C)C | C10H22O2Si
solvent | EA | CC(OCC)=O | C4H8O2
product | (R)-4-(tert-butyl-dimethyl-silanyloxy)-1-(4-ethoxy-phenylamino)-butan-2-ol | 62% yield | C(C)(C)(C)[Si](OCC[C@H](CNC1=CC=C(C=C1)OCC)O)(C)C | C18H33NO3Si
